US07446222B2
Ethyl 3-bromo-5-(2-oxo-1-pyrrolidinyl)benzoate
Sodium hydride, 60% suspension in oil (186 mg, 4.65 mmol) was added portionwise over 2 mins to a solution of ethyl 3-bromo-5-[(4-chlorobutanoyl)amino]benzoate (1.35 g, 3.87 mmol) in dry THF (50 ml) under nitrogen. The reaction mixture was stirred at room temperature for 2 hours. The reaction was quenched by the careful addition of water (25 ml). Diethyl ether (50 ml) was added. The organic phase was washed with water, dried and evaporated to give the title compound as a yellow solid (990 mg, 82%).

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl 3-bromo-5-[(4-chlorobutanoyl)amino]benzoate | 3.87 mmol, 1.35 g | BrC=1C=C(C(=O)OCC)C=C(C1)NC(CCCCl)=O | C13H15BrClNO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 3-bromo-5-(2-oxo-1-pyrrolidinyl)benzoate | 990 mg, 82% | BrC=1C=C(C(=O)OCC)C=C(C1)N1C(CCC1)=O | C13H14BrNO3
